US05246948
Synthesis of 4-(3-hydroxyisoindolin-1-on-2-ylmethylthio)pyridine
To a solution of 4.01 g (14.8 mmol) of 4-(phthalimidomethylthio)pyridine in 25 ml of methanol, a solution of 1.08 g (29.7 mmol) of sodium borohydride in 20 ml of methanol was added. The mixture was stirred at room temperature for 4 hours. Glacial acetic acid (0.5 ml) was added to quench the reaction, and then the solvent was distilled off. The residue was dissolved in chloroform, washed with water and dried, and the solvent was distilled off. The residue was purified by recrystallization (recrystallization solvent: ethanol) to obtain 2.35 g of the desired compound (yield: 58.3%, yellow crystals).

reactant | 4-(phthalimidomethylthio)pyridine | 14.8 mmol, 4.01 g | C1(C=2C(C(N1CSC1=CC=NC=C1)=O)=CC=CC2)=O | C14H10N2O2S
reactant | sodium borohydride | 29.7 mmol, 1.08 g | [BH4-].[Na+]
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 4-(3-hydroxyisoindolin-1-on-2-ylmethylthio)pyridine | 2.35 g, yield: 58.3% | OC1N(C(C2=CC=CC=C12)=O)CSC1=CC=NC=C1 | C14H12N2O2S
